US04297516
4-Hydroxy-propadienyl-1-octyne
To a stirred solution of 125 mmol. of propargylmagnesium bromide in 85 ml. of ether at -20° C. is added a solution of 11.7 g. (95 mmol.) of 1,2-octadien-4-one in 30 ml. of ether during 30 minutes. After the addition, the solution is stirred at 25° C. overnight, cooled to 0° C., and treated dropwise with 18 ml. of saturated ammonium chloride solution. The mixture is filtered, and the filtrate is washed with brine, dried over magnesium sulfate, and concentrated. The product is distilled from anhydrous potassium carbonate to provide the title compound as a colorless liquid, b.p. 84°-87° C. (8 mm.).

reactant | propargylmagnesium bromide | C(C#C)[Mg]Br
reactant | 1,2-octadien-4-one | 95 mmol | C=C=CC(CCCC)=O | C8H12O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 4-Hydroxy-propadienyl-1-octyne | OC(CC#CC=C=C)CCCC | C11H16O
